US04766133
A solution of 6.75 g of 2,3-lutidine and 475 mg of copper(I) iodide in 150 ml of abs. tetrahydrofuran is cooled to -20° and treated under argon with 3.4 ml of ethyl chloroformate. The reaction mixture is heated to 30° and treated dropwise within 10 minutes with 14 ml of methylmagnesium chloride (3 molar, in tetrahydrofuran). The ethyl 2,3,4-trimethyl-l (4H)-pyridinecarboxylate obtained as the intermediate can be isolated as follows: The reaction mixture is cooled to -10° and treated with 38 ml of aqueous (20%) ammonium chloride solution, whereupon 100 ml of ether are added and the organic solution is washed several times with a 20% ammonium chloride/ammonia (1:1) solution, 2N hydrochloric acid and 10% sodium carbonate solution. The organic solution is dried and concentrated, and the residue is purified on a silica gel column, the medium pressure flash chromatography method (solvent: n-hexane/ether [20:1]) being used and the pressure being produced with nitrogen gas.

reactant | 2,3-lutidine | 6.75 g | N1=C(C(=CC=C1)C)C | C7H9N
reactant | ethyl chloroformate | 3.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | methylmagnesium chloride | 3 molar, 14 ml | C[Mg]Cl
catalyst | copper(I) iodide | 475 mg | [Cu]I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2,3,4-trimethyl-l (4H)-pyridinecarboxylate | CC=1N(C=CC(C1C)C)C(=O)OCC | C11H17NO2
